US08487108B2
A solution of 2-(trimethylsilyl)ethyl (S)-2-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propyl(methyl)carbamate (0.7350 g, 2.32 mmol, 1.0 equiv, ˜7% diastereomeric impurities) in CH3CN (50 mL) was treated with 4-nitrophenyl chloroformate (0.4950 g, 2.45 mmol, 1.05 equiv) and 0.600 g (7.14 mmol, 3 equiv) of NaHCO3. The reaction was stirred at rt for 3 hr. The mixture was filtered using Celite® 545. The filtrate was evaporated under reduced pressure to afford 1.1647 g (100%) of (4-nitrophenyl) (S)-1-(N-methyl-N-(trimethylsilylethoxycarbonyl)amino)-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate, which was used in the next step without further purification. MS ESI +ve m/z 504 (M+Na).

reactant | 2-(trimethylsilyl)ethyl (S)-2-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propyl(methyl)carbamate | 2.32 mmol, 0.7350 g, 1.0 equiv | N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)C[C@@H]1COCCC1 | C15H32N2O3Si
reactant | 4-nitrophenyl chloroformate | 2.45 mmol, 0.4950 g, 1.05 equiv | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | NaHCO3 | 7.14 mmol, 0.600 g, 3 equiv | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | (4-nitrophenyl) (S)-1-(N-methyl-N-(trimethylsilylethoxycarbonyl)amino)-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 1.1647 g, 100% | CN(C(=O)OCC[Si](C)(C)C)C[C@H](C[C@@H]1COCCC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H35N3O7Si
